US06265434B1
To a solution of 2,6-dibromoaniline (10 g, 40 mmol) in 160 mL of glacial acetic acid was added 30 mL of 30% hydrogen peroxide. The mixture was left for 48 h at which point crystals had precipitated out. The crystals were collected by filtration, washed with acetic acid and H2O then dried under high vacuum to give 6.24 g (60%) of 2,6-dibromonitrosobenzene. This material (2.6 g, 10 mmol) was dissolved in 25 mL of DMSO along with 650 mg (10 mmol) sodium azide. The mixture was heated to 100° C. for lh then cooled to rt and diluted with 200 mL EtOAc and 150 mL H2O. The layers were separated and the organic phase was washed with H2O and sat'd NaCl then dried over Na2SO4 and concentrated. Flash chromatography (75 g silica, 10:1 v/v hexane/EtOAc eluant) afforded 1.7 g (85%) of the title compound: 1H NMR (300 MHz) δ 7.25-7.35 (dd, 1H), 7.6-7.65 (d, 1H), 7.78-7.82 (d, 1H)

reactant | 2,6-dibromoaniline | 40 mmol, 10 g | BrC1=C(N)C(=CC=C1)Br | C6H5Br2N
reactant | hydrogen peroxide | 30 mL | OO | H2O2
solvent | acetic acid | 160 mL | C(C)(=O)O | C2H4O2
product | 2,6-dibromonitrosobenzene | 6.24 g, 60% | BrC1=C(C(=CC=C1)Br)N=O | C6H3Br2NO
